US08877946B2
Synthesis of 5,6-difluoro-oxindole
A mixture of N-(3,4-difluorophenyl)chloroacetamide (14 mmol) and aluminum chloride (54 mmol) was stirred and heated to 200-210 deg C. in a silicon oil bath for 4.5 h. On cooling, 40 mL of ice cold hydrochloric acid was added to the reaction mixture. The solid residue was removed by vacuum filtration and purified by column chromatography with hexane-ethyl acetate (1:1) as eluting solvent. The yield for this step was 40.7%. 1HNMR (300 MHz, in DMSO-d6) δ 10.46 (s, 1H, NH), 7.33 (t, J=8.7 Hz, 1H, Ar—H), 6.82 (q, J=6.9 Hz, 1H, Ar—H), 3.47 (s, 2H, ArCH2CO).

reactant | N-(3,4-difluorophenyl)chloroacetamide | 14 mmol | FC=1C=C(C=CC1F)NC(CCl)=O | C8H6ClF2NO
reactant | aluminum chloride | 54 mmol | [Cl-].[Al+3].[Cl-].[Cl-]
product | 5,6-difluoro-oxindole | FC=1C=C2CC(NC2=CC1F)=O | C8H5F2NO
